Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Dicloxacillin / Penicillins
 
Attending: ___.
 
Chief Complaint:
L hip OA
 
Major Surgical or Invasive Procedure:
s/p L THA.

 
History of Present Illness:
___ w/ L hip OA, admitted to ortho surgery for L THA. 
 
Past Medical History:
OA; ECHO 55%; EKG SR; dyslipidemia; HTN; heart palpitations; 
mild-mod aortic insufficiency; hypothyroid; diverticuli.
 
Social History:
___
Family History:
___
 
Physical Exam:
AVSS
NAD
wound c/d/i
___ intact
no erythema
minimal ecchymosis
minimal SSD
 
Pertinent Results:
___ 07:51AM BLOOD WBC-7.1 RBC-2.54* Hgb-8.1* Hct-23.6* 
MCV-93 MCH-31.9 MCHC-34.4 RDW-12.7 Plt ___
___ 08:15AM BLOOD WBC-5.7 RBC-2.75*# Hgb-8.9*# Hct-25.6*# 
MCV-93 MCH-32.4* MCHC-34.8 RDW-12.6 Plt ___
___ 08:15AM BLOOD Glucose-114* UreaN-14 Creat-0.9 Na-139 
K-3.7 Cl-107 HCO3-28 AnGap-8
___ 08:15AM BLOOD Calcium-7.7* Phos-3.6 Mg-1.8
 
Brief Hospital Course:
HOSPITAL COURSE
The patient was admitted on ___ and taken to the operating 
room by Dr.
___ the patient underwent L THA. The procedure was well
tolerated and there were no complications. Please see the 
separately
dictated operative report for details regarding the surgery. The
patient was subsequently transferred to the post-anesthesia care 
unit
in stable condition and transferred to the floor later that day.
Overnight, the patient was placed on a PCA for pain control. IV
antibiotics were continued for 24 hours postoperatively as per
routine. Lovenox was started the morning of postop day 1 for DVT
prophylaxis.

The drain was removed without incident. The patient was weaned 
off of
the PCA onto oral pain medications. The Foley catheter was 
removed
without incident. The surgical dressing was also removed, and 
the
surgical incision was found to be clean, dry, and intact without
erythema nor purulent drainage.

During the hospital course the patient was seen daily by 
physical
therapy. Labs were checked both post-operatively and throughout 
the
hospital course and repleted accordingly. The patient was 
tolerating
regular diet and otherwise feeling well. Prior to discharge the
patient was afebrile with stable vital signs. Hematocrit was 
stable
and pain was adequately controlled on a PO regimen. The 
operative
extremity was neurovascularly intact and the wound was benign. 
The
patient was discharged to rehabilitation in a
stable condition.
 
Medications on Admission:
celexa 200' prn; levoxyl 100'; metoprolol tartrate 25''; 
premarin 0.625'; ambien' prn' tylenol ES; calcium; glucosamine; 
MVI.
 
Discharge Medications:
1. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4-6H () as needed. 
 
2. Lovenox 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous once 
a day for 3 weeks.  
3. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
4. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily) for 1 weeks.  
5. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. Conjugated Estrogens 0.625 mg Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
10. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 2.5 
Tablets PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
OA

 
Discharge Condition:
stable

 
Discharge Instructions:
1. Please return to the emergency department or notify MD if you
should experience: severe pain not relieved by medication, 
increased
swelling, decreased sensation, difficulty with movement, fevers
>101.5, shaking chills, redness or drainage at the incision 
site,
chest pain, shortness of breath or any other concerns.
2. Please follow up with your PCP regarding this admission and 
any new
medications and refills.
3. Resume your home medications unless otherwise instructed.
4. You have been given medications for your pain control. Please 
do
not operate heavy machinery or drink alcohol when taking these
medications. As your pain improves, please decrease the amount 
of pain
medication. This medication can cause constipation, so you 
should
drink plenty of water daily and take a stool softener as needed 
to
prevent this side effect.
5. You may not drive a car until cleared to do so by your 
surgeon or
your primary physician.
6. Please keep your wounds clean. You can get the wound wet or 
take a
shower starting 5 days after surgery, but no baths or swimming 
for at
least 4 weeks. No dressing is needed if wound continued to be
non-draining. Any stitches or staples that need to be removed 
will be
taken out at your 2-week follow up appointment, by your PCP or 
at
rehab.
7. Please call your surgeons/doctors office to ___ or 
confirm
your follow-up appointment.
8. Please DO NOT take any NSAIDs (i.e. celebrex, ibuprofen, 
advil, motrin, etc).

ANTICOAGULATION: Please take lovenox injections (40mg) once a 
day x 3
weeks and then take aspirin 325 mg twice a day x 3 weeks. ___
discontinue all blood thinners 6 weeks post-operatively. 

WOUND CARE: Keep your incision clean and dry. Okay to shower 
after
POD#5 but do not tub-bath or submerge your incision. Please 
place a
dry sterile dressing to the wound each day if there is drainage, 
leave
it open to air. Check wound regularly for signs of infection 
such as
redness or thick yellow drainage. Staples will be removed by ___ 
in 2
weeks. If you are going to rehab, then rehab can remove staples 
at 2
weeks.

ACTIVITY: Weight bearing as tolerated to operative leg, and CPM
machine advance as tolerated. No strenuous exercise or heavy 
lifting
until follow up appointment, at least.

___ (after home): Home ___, dressing changes as instructed, 
and
wound checks, staple removal in 2 weeks after surgery.
Physical Therapy:
WBAT w/ posterior precaution.
Treatments Frequency:
1. Please return to the emergency department or notify MD if you
should experience: severe pain not relieved by medication, 
increased
swelling, decreased sensation, difficulty with movement, fevers
>101.5, shaking chills, redness or drainage at the incision 
site,
chest pain, shortness of breath or any other concerns.
2. Please follow up with your PCP regarding this admission and 
any new
medications and refills.
3. Resume your home medications unless otherwise instructed.
4. You have been given medications for your pain control. Please 
do
not operate heavy machinery or drink alcohol when taking these
medications. As your pain improves, please decrease the amount 
of pain
medication. This medication can cause constipation, so you 
should
drink plenty of water daily and take a stool softener as needed 
to
prevent this side effect.
5. You may not drive a car until cleared to do so by your 
surgeon or
your primary physician.
6. Please keep your wounds clean. You can get the wound wet or 
take a
shower starting 5 days after surgery, but no baths or swimming 
for at
least 4 weeks. No dressing is needed if wound continued to be
non-draining. Any stitches or staples that need to be removed 
will be
taken out at your 2-week follow up appointment, by your PCP or 
at
rehab.
7. Please call your surgeons/doctors office to ___ or 
confirm
your follow-up appointment.
8. Please DO NOT take any NSAIDs (i.e. celebrex, ibuprofen, 
advil, motrin, etc).

ANTICOAGULATION: Please take lovenox injections (40mg) once a 
day x 3
weeks and then take aspirin 325 mg twice a day x 3 weeks. ___
discontinue all blood thinners 6 weeks post-operatively.

WOUND CARE: Keep your incision clean and dry. Okay to shower 
after
POD#5 but do not tub-bath or submerge your incision. Please 
place a
dry sterile dressing to the wound each day if there is drainage, 
leave
it open to air. Check wound regularly for signs of infection 
such as
redness or thick yellow drainage. Staples will be removed by ___ 
in 2
weeks. If you are going to rehab, then rehab can remove staples 
at 2
weeks.

ACTIVITY: Weight bearing as tolerated to operative leg, and CPM
machine advance as tolerated. No strenuous exercise or heavy 
lifting
until follow up appointment, at least.

___ (after home): Home ___, dressing changes as instructed, 
and
wound checks, staple removal in 2 weeks after surgery.
 
Followup Instructions:
___